US04250178
Stage 3: 5-ethoxycarbonyl 4-ethoxy 2-ethyl pyrimidine (III) Code number: 781019
To a solution cooled to 0° C. of 64.5 g of 5-ethoxycarbonyl 4-chloro 2-ethyl pyrimidine obtained in the preceding stage, in 200 ml of ethanol, was slowly added a solution of 7.75 g of sodium in 200 ml of ethanol, this being stirred for 15 min. after the addition. Then the solution was acidified to a pH≃3 with hydrochloric ethanol≃6.5 N, and the solvent was evaporated. The residue was diluted in water, extracted with chloroform, dried on sodium sulfate and the solvent evaporated. The residue was distilled and 46.7 g of the expected product were obtained.

reactant | 5-ethoxycarbonyl 4-chloro 2-ethyl pyrimidine | 64.5 g | C(C)OC(=O)C=1C(=NC(=NC1)CC)Cl | C9H11ClN2O2
reactant | sodium | 7.75 g | [Na] | Na
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 5-ethoxycarbonyl 4-ethoxy 2-ethyl pyrimidine | 46.7 g, Yield: 68% | C(C)OC(=O)C=1C(=NC(=NC1)CC)OCC | C11H16N2O3
